US09034891B2
Synthesis of 2,8-dimethyl-1-thia-3,8-diazaspiro[4.5]decane
To a stirred solution of 2,8-dimethyl-1-thia-3,8-diaza-spiro[4.5]dec-2-ene (10.4 ml, 60 mmol) in methanol (150 ml) at room temperature, bromocresol green (5 mg) was added and the solution became blue. 4N HCl/MeOH was added to the stirred solution until the color changed to yellow. Sodium cyanoborohydride (3.9 gr, 62 mmol) was then added in one portion and the resulting mixture was stirred at room temperature for 2 h. During this period, each time that the reaction color changed to green, more 4N HCl/MeOH was added to keep the solution color yellow. At the end of this time, the solvent was evaporated under reduced pressure to give blue-green oil. Dichloromethane (100 ml) was added to the residue and the mixture was washed with 2N NaOH (50 ml). The two phases were separated and the aqueous phase was extracted with dichloromethane (100 ml). The organic phases were combined, dried with anhydrous magnesium sulfate, filtered and the solvent was evaporated under reduced pressure. The residue was purified by flash chromatography (silica, CH2Cl2/MeOH/NH4OH 90/10/1) to give the title compound (2.18 g) as an almost colorless oil. 1H NMR (CDCl3, 500 MHz) δ 4.61 (q, J=6.18 Hz, 1H, CHCH3), 3.10 (d, J=12.6 Hz, 1H, CHHNH), 2.74 (d, J=12.6 Hz, 1H, CHHNH), 2.27-2.19 (m, 1H), 2.23 (s, 3H, NCH3), 2.10 (m, 2H), 1.85-1.70 (m, 5H), 1.46 (d, J=6.18 Hz, 3H, CH3CH) ppm.

reactant | 2,8-dimethyl-1-thia-3,8-diaza-spiro[4.5]dec-2-ene | 60 mmol, 10.4 ml | CC=1SC2(CN1)CCN(CC2)C | C9H16N2S
reactant | HCl MeOH | 4N | Cl.CO
reactant | Sodium cyanoborohydride | 62 mmol, 3.9 gr | C(#N)[BH3-].[Na+]
reactant | HCl MeOH | 4N | Cl.CO
reactant | Dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | methanol | 150 ml | CO | CH4O
catalyst | bromocresol green | 5 mg | CC1=C(C=C(C(=C1Br)O)Br)C2(C=3C=CC=CC3S(=O)(=O)O2)C=4C=C(C(=C(C4C)Br)O)Br | C21H14Br4O5S
product | 2,8-dimethyl-1-thia-3,8-diazaspiro[4.5]decane | 2.18 g | CC1SC2(CN1)CCN(CC2)C | C9H18N2S
